US06211329B1
Synthesis of the acetal (formal) of formaldehyde and 2,2-bis(hydroxymethyl)propanoic acid yielding 5-methyl-1,3-dioxane-5-carboxylic acid.

reactant | formaldehyde | C=O | CH2O
reactant | 2,2-bis(hydroxymethyl)propanoic acid | OCC(C(=O)O)(C)CO | C5H10O4
product | 5-methyl-1,3-dioxane-5-carboxylic acid | CC1(COCOC1)C(=O)O | C6H10O4
